US06166006
To a solution of ethyl 7-(4-tert-butylphenyl)-2,3-dihydro-1-benzoxepine-4-carboxylate (503.8 mg) in ethanol (10 ml)was added 1N sodium hydroxide (2.0 m) at room temperature, and the mixture was stirred for 64 hours and concentrated under reduced pressure. To the residue was added 1N hydrochloric acid (15 ml), and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried with magnesium sulfate and concentrated. The resulting crystal was collected by filtration to give 7-(4-tert-butylphenyl)-2,3-dihydro-1-benzoxepine-4-carboxylic acid (396 mg) as colorless crystals.

reactant | ethyl 7-(4-tert-butylphenyl)-2,3-dihydro-1-benzoxepine-4-carboxylate | 503.8 mg | C(C)(C)(C)C1=CC=C(C=C1)C=1C=CC2=C(C=C(CCO2)C(=O)OCC)C1 | C23H26O3
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 7-(4-tert-butylphenyl)-2,3-dihydro-1-benzoxepine-4-carboxylic acid | 396 mg | C(C)(C)(C)C1=CC=C(C=C1)C=1C=CC2=C(C=C(CCO2)C(=O)O)C1 | C21H22O3
